US07855206B2
To a solution of tert-butyl [(2R,3S)-5-methylene-2-(2,4,5-trifluorophenyl)tetrahydro-2H-pyran-3-yl]carbamate (203 mg, 0.59 mmol) in tert-butyl alcohol (6 mL), acetone (3 mL) and water (1.5 mL) was added osmium tetroxide (0.113 mL of 2.5% solution in tert-butyl alcohol, 0.009 mmol). The resultant mixture was stirred at room temperature for 10 minutes and then treated with N-methylmorpholine N-oxide (92 mg, 0.79 mmol) and stirred for two days. After two days, the reaction mixture was treated with aqueous sodium bisulfite solution (5 mL, 2.0N) followed after 10 min by ethyl acetate. The organic layer was washed successively with 2N hydrochloric acid and saturated aqueous sodium bicarbonate solution, dried over anhydrous sodium sulfate, filtered and evaporated to yield tert-butyl [(2R,3S)-5-hydroxy-5-(hydroxymethyl)-2-(2,4,5-trifluorophenyl)tetrahydro-2H-pyran-3-yl]carbamate which was used in the next step without further purification.

reactant | tert-butyl [(2R,3S)-5-methylene-2-(2,4,5-trifluorophenyl)tetrahydro-2H-pyran-3-yl]carbamate | 0.59 mmol, 203 mg | C=C1C[C@@H]([C@H](OC1)C1=C(C=C(C(=C1)F)F)F)NC(OC(C)(C)C)=O | C17H20F3NO3
reactant | N-methylmorpholine N-oxide | 0.79 mmol, 92 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium bisulfite | 2.0N, 5 mL | S([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | tert-butyl alcohol | 6 mL | C(C)(C)(C)O | C4H10O
solvent | acetone | 3 mL | CC(=O)C | C3H6O
solvent | water | 1.5 mL | O | H2O
catalyst | osmium tetroxide | 0.009 mmol, 0.113 mL | [Os](=O)(=O)(=O)=O
product | tert-butyl [(2R,3S)-5-hydroxy-5-(hydroxymethyl)-2-(2,4,5-trifluorophenyl)tetrahydro-2H-pyran-3-yl]carbamate | OC1(C[C@@H]([C@H](OC1)C1=C(C=C(C(=C1)F)F)F)NC(OC(C)(C)C)=O)CO | C17H22F3NO5
